US08207334B2
7-Bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid methyl ester (20 mg, 0.07 mmol) and p-fluorobenzylamine (19 uL, 0.17 mmol) in dry methanol (4 mL) was heated to reflux with stirring. Reaction progress was monitored by HPLC. After 6 h, the reaction was cooled to room temperature and concentrated in vacuo. The residue was triturated with diethyl ether (2 mL) and the precipitate collected by filtration and washed with diethyl ether (10 mL) and dried on the pump to afford 7-bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid 4-fluoro-benzylamide (24 mg, 92%) as a yellow brown solid.

reactant | 7-Bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid methyl ester | 0.07 mmol, 20 mg | COC(=O)C=1N=C2N(C(C1O)=O)C=C(C=C2)Br | C10H7BrN2O4
reactant | p-fluorobenzylamine | 0.17 mmol, 19 uL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | methanol | 4 mL | CO | CH4O
product | 7-bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid 4-fluoro-benzylamide | 24 mg, 92% | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=C(C=C3)Br)C=C1 | C16H11BrFN3O3
